US08957070B2
N-Methyl-2-[(methylthio)methyl]-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide
A solution of 2-(chloromethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide (250 mg) and sodium methanethiolate (50 mg) in tetrahydrofuran (5 mL) was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and the obtained crystals were collected by filtration. The crystals were washed with water and diethyl ether, and dried to give the title compound (256 mg, yield 99%) as pale-brown crystals. melting point 213° C.

reactant | 2-(chloromethyl)-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide | 250 mg | ClCC=1SC=CC1S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC=CN1)C | C17H14ClN3O2S3
reactant | sodium methanethiolate | 50 mg | C[S-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-Methyl-2-[(methylthio)methyl]-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-3-sulfonamide | 256 mg, yield 99% | CN(S(=O)(=O)C1=C(SC=C1)CSC)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C18H17N3O2S4
